US07576104B2
2-Methoxy-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-acetamide I-118
To a suspension of 4-amino-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione (0.10 g, 0.35 mmol) in THF (15 ml) was added methoxyacetyl chloride (0.08 g, 0.70 mmol). The mixture was heated to reflux for 6 hours. The reaction mixture was allowed to cool and to the solution was added methanol (2 ml). The reaction mixture was stirred for an additional 15 minutes followed by solvent evaporation in vacuo. The resulting solid was slurried in diethyl ether (20 ml) and filtered to give 0.111 g (87%) of product as an off-white solid: mp 244-246° C.; 1H NMR (DMSO-d6) 11.07 (s, 1H), 10.26 (s, 1H), 8.68 (d, J=8.3 Hz, 1H), 7.82 (t, J=7.7 Hz, 1H), 7.55 (d, J=7.2 Hz, 1H), 4.10 (s, 2H), 3.47 (s, 3H), 2.77-2.51 (m, 3H), 2.09-2.04 (m, 1H), 1.90 (s, 3H); 13C NMR (DMSO-d6) 172.12, 171.99, 169.15, 168.99, 167.38, 136.22, 135.68, 131.06, 124.25, 117.90, 115.91, 71.43, 59.06, 58.88, 29.01, 28.53, 20.92; Anal. Calcd. For C17H17N3O6: C, 56.48; H, 4.81; N, 11.62. Found: C, 56.10; H, 4.55; N, 11.39+0.12H2O.

reactant | 4-amino-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 0.35 mmol, 0.10 g | NC1=C2C(N(C(C2=CC=C1)=O)C1(C(NC(CC1)=O)=O)C)=O | C14H13N3O4
reactant | methoxyacetyl chloride | 0.70 mmol, 0.08 g | COCC(=O)Cl | C3H5ClO2
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-Methoxy-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-acetamide | 0.111 g, 87% | COCC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C1(C(NC(CC1)=O)=O)C)=O | C17H17N3O6
